US04722929
8-(2-Methoxy-4-hydroxy-phenyl)-3H-purin-2-one
Three grams of 8-(2-methoxy-4-benzyloxy-phenyl)-2-benzyloxypurine are dissolved in 100 ml of ethanol and hydrogenated in the presence of 1 gm of 20% palladium/charcoal for two hours at 50° C. with hydrogen at 5 bar. The catalyst is filtered off and washed with hot ethanol. The filtrates are evaporated, and the residue is triturated with methylene chloride. The solid product obtained is stirred with 30 ml of 2N sodium hydroxide solution. The solution is filtered, and the filtrate is acidified with glacial acetic acid. The precipitate formed is separated from the solution by centrifuging and purified by triturating with acetone. The product contains 1 mol of water of crystallization.

reactant | 8-(2-methoxy-4-benzyloxy-phenyl)-2-benzyloxypurine | Three grams | COC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC2=NC(=NC=C2N1)OCC1=CC=CC=C1 | C26H22N4O3
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
reactant | water | 1 mol | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 1 gm | [Pd] | Pd
product | 8-(2-Methoxy-4-hydroxy-phenyl)-3H-purin-2-one | COC1=C(C=CC(=C1)O)C1=NC=2NC(N=CC2N1)=O | C12H10N4O3
